US08304557B2
(v) N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide
To a solution of 3-(1-cyanocyclopropyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide (2.5 g, 4.77 mmol) in N,N-dimethylformamide (15 mL) was added N,N-diisopropylethylamine (0.90 mL, 5.01 mmol), and the mixture was stirred at room temperature for 15 min. 2-Iodoacetamide (927 mg, 5.01 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 48 hr. The reaction mixture was concentrated under reduced pressure, water (150 mL) was added to the residue, and the mixture was extracted with ethyl acetate (150 mL). The organic layer was washed with saturated brine (150 mL) and dried over anhydrous magnesium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate and hexane to give the title compound (2.14 g, 77%) as a pale-yellow solid.

reactant | 3-(1-cyanocyclopropyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide | 4.77 mmol, 2.5 g | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=NC(=CC2)NS(=O)(=O)C2=CC=C(C=C2)C)C=CC1 | C29H24N4O4S
reactant | N,N-diisopropylethylamine | 5.01 mmol, 0.90 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Iodoacetamide | 5.01 mmol, 927 mg | ICC(=O)N | C2H4INO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 2.14 g, 77% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C1(CC1)C#N)=O)=O | C31H27N5O5S
